US04282242
5-Chloropyrrole-3-carboxylic Acid
Methyl 5-chloropyrrole-3-carboxylate (900 g.) was refluxed for 9 hours with 20 ml. of methanol and 10 ml. of 1 N sodium hydroxide. Methanol was removed by evaporation, the aqueous residue was diluted with approximately 10 ml. of water and extracted twice with ether. The aqueous phase was acidified with conc. hydrochloric acid and product extracted into ethyl acetate. The three ethyl acetate extracts were combined, washed with saturated sodium chloride, dried over anhydrous sodium sulfate and evaported to product (715 mg., m.p. 175°-178° C.). Recrystallization from methylene chloride/hexane afforded purified 5-chloropyrrole-3-carboxylic acid (300 mg., m.p. 178°-180° C.).

reactant | Methyl 5-chloropyrrole-3-carboxylate | 900 g | ClC1=CC(=CN1)C(=O)OC | C6H6ClNO2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 5-Chloropyrrole-3-carboxylic Acid | ClC1=CC(=CN1)C(=O)O | C5H4ClNO2
